US04816452
c. Iodomethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate
A solution of chloromethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate (1.0 g) in dry acetone (30 ml) was treated with finely-ground sodium iodide (3.6 g) and the mixture stirred at room temperature for 16 h. The mixture was filtered, the filtrate evaporated under reduced pressure and the residue dissolved in dichloromethane (50 ml) and washed with sodium thiosulphate (10%. aq. solution) until colourless. The organic phase was washed with water (20 ml), saturated aqueous NaCl (20 ml) and dried (MgSO4). The solvent was evaporated and the residue crystallised from ethyl acetate to afford the title compound as a white solid (0.600 g), m.p. 162°-4° C.; νmax (Nujol) 3300, 1735, 1690, 1610, and 1525 cm-1 ; δH (CDCl3 /D6 -DMSO) 3.90 (2H, d, J 6 Hz), 5.23 (2H, s), 6.18 (2H, s), 6.18 (2H, s), and 7.35-8.20 (10H, m).

reactant | chloromethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate | 1.0 g | ClCOC(C1=CC=C(C=C1)NC(CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C18H16ClN3O7
reactant | sodium iodide | 3.6 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | Iodomethyl-4[N-(4-nitrobenzyloxycarbonyl)glycylamino]benzoate | 0.600 g | ICOC(C1=CC=C(C=C1)NC(CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C18H16IN3O7
